US03996229
103 G. of 8-fluoro-2-methyl-dibenzo[b,f]thiepin-10(11H)-one are suspended in 550 ml. of ethanol and treated with 24.3 g. of sodium borohydride. The mixture is heated under reflux for about 10 minutes. After the addition of water, the mixture is extracted with chloroform. The organic phase is washed with water, dried over sodium sulfate, evaporated, and there is obtained 8-fluoro-10,11-dihydro-2-methyl-dibenzo[b,f]thiepin-10-ol as an oil.

reactant | 8-fluoro-2-methyl-dibenzo[b,f]thiepin-10(11H)-one | FC=1C=CC2=C(C(CC3=C(S2)C=CC(=C3)C)=O)C1 | C15H11FOS
reactant | ethanol | C(C)O | C2H6O
reactant | sodium borohydride | [BH4-].[Na+]
solvent | water | O | H2O
product | 8-fluoro-10,11-dihydro-2-methyl-dibenzo[b,f]thiepin-10-ol | FC=1C=CC2=C(C(CC3=C(S2)C=CC(=C3)C)O)C1 | C15H13FOS
